2170-07-25 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Fever (Hyperthermia, Pyrexia, not Fever of Unknown Origin)
   Assessment:
   Temperature remains labile. Tmax 104.9 at 0240. Rituximab given on [**7-24**]
   premedicated as ordered (see med sheets)
   Action:
   Tylenol 650mg given, cooling blanket applied, ice packs placed in
   underarms and behind neck, motrin 400mg given, NS bolus 1000cc over 1
   hour given, blankets removed, room temperature decreased to 70 degrees.
   Sputum and stool cultures sent
   Response:
   Temp slowly trending down, last temp 100.4, patient shivering
ice packs
   removed, blanket temperature increased slightly.
   Plan:
   Continue to monitor temps closely, continue to administer IV and PO
   antibiotics. Monitor labs CBC/WBC; blood cultures pending.
   Respiratory failure, acute (not ARDS/[**Doctor Last Name 76**])
   Assessment:
   Rhonchi noted throughout lung fields worsening on the right side. O2
   sats 94-97% on 4L NC, O2 requirements increased with fever. RR at rest
   25, increased to 40 with fever. Labored breathing with exertion,
   shallow breathing
   Action:
   Utilizing Incentive spirometer at bedside. Encouraged to cough and deep
   breathe. Uses yankeur independently. Albuterol and Atrovent neb
   treatment given with Febrile episode and tachypnea. Sputum sample sent
   this am
   Response:
   Accurately uses IS able to obtain 1600cc volume, lung sounds improve
   with coughing and suctioning, but remain coarse.
   Plan:
   Continue to monitor respiratory status closely, encourage
   repositioning, IS use, coughing and deep breathing techniques. Titrate
   O2 accordingly.
   ------ Protected Section ------
   Electrolytes: K 3.1 currently being repleted with 40meq KCL, continuous
   repletion (60meq given last night for a K of 3.2). Phosphorus level
   1.8, currently being repleted with 15mmol Potassium phos.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-24**] 12:30 PM
   Voriconazole - [**2170-7-24**] 10:00 PM
   Meropenem - [**2170-7-25**] 12:00 AM
   Vancomycin - [**2170-7-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-7-24**] 01:30 PM
   Pantoprazole (Protonix) - [**2170-7-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-25**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.5
C (104.9
   Tcurrent: 38
C (100.4
   HR: 100 (81 - 108) bpm
   BP: 114/67(78) {103/51(64) - 129/76(86)} mmHg
   RR: 23 (19 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,372 mL
                                                                  1,906 mL
   PO:
                                                                    250 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,122 mL
                                                                  1,546 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    900 mL
   Urine:
                                                                  1,500 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    872 mL
                                                                  1,008 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.53/32/91/26/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   8.5 g/dL
   139 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.1 mEq/L
   11 mg/dL
   102 mEq/L
   136 mEq/L
   25.1 %
   0.3 K/uL
        [image002.jpg]
                             [**2170-7-24**]  05:34 AM
                             [**2170-7-24**]  07:57 AM
                             [**2170-7-25**]  12:15 AM
                             [**2170-7-25**]  05:18 AM
   WBC
   0.3
   0.3
   Hct
   22.7
   25.1
   Plt
   49
   48
   Cr
   0.7
   0.6
   0.6
   TCO2
   28
   Glucose
   148
   170
   139
   Other labs: PT / PTT / INR:18.1/29.9/1.7, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Albumin:2.6 g/dL, LDH:157 IU/L, Ca++:7.3 mg/dL, Mg++:1.8
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   A/P: 61 y/o male with cutaneous squamous cell carcinoma metastatic to
   regional lymph nodes currently receiving XRT with Cisplatin presents
   with neutropenic fever and hypoxia.
   .
   # Hypoxia/tachypnea - unclear whether this is related to Rituxan
   infusion vs. worsening of pneumonia despite broad spectrum
   antibiotics.  Despite extensive discussion with patient regarding code
   status, patient did not want to say whether he wanted intubation or not
   if he developed progressive respiratory failure.
   - Continue supplemental O2 for now.
   - Per primary Oncology team, would like to consider bronchoscopy to
   elucidate other organism not covered by antibiotics.  However, this
   would require intubation and will require discussion with patient,
   primary oncology team, and patient's wife to clarify code status.
   .
   # Neutropenic fevers - Has large RLL pneumonia with RUL extension.
   Continues to have fevers, rigors and wbc count decreased. ID consulted
   on [**7-22**]. Changed from cefepime/vanc/flagyl to
   meropenem/vanc/voriconazole [**2170-7-22**]. Sputum sample completed. On
   Neupogen. several serologic studies sent.
   .
   # Hypotension: fluid responsive. Lowest SBP 78. Running maintenance
   fluids, but probably losing more with high fevers. Off triam-hctz.
   .
   ## Pancytopenia/CLL - bone marrow bx shows marrow infiltration by CLL.
   Attempted Rituxan/Vincristine on [**7-21**] but pt
   rigors/fevers/desat--difficult to control. CTA demonstrated no PE, but
   large pneumonia. Received the vincristine, but [**12-23**] of the Rituxan
   infusion and then this was stopped and not restarted over the weekend.
   On 3L of oxygen. On [**7-23**] restarted rituxan infusion and tolerating
   well.
   .
   # Anemia: blood transfusion ordered, but pt with continued high fevers
   so will plan to transfuse once fevers are controlled
   .
   # Tylenol/Alcohol: history of significant daily alcohol use and
   requiring tylenol for fever control. Will alternate with Ibuprofen, but
   put on [**Hospital1 **] PPI for stomach protection given thrombocytopenia. Daily
   LFTs during acute period. Currently no evidence of hepatitis.
   .
   # Cutaneous squamous cell carcinoma
   - holding xrt
   .
   # Thrush - on clotrimazole troches
   .
   # FEN - cardiac healthy diet
   .
   # Access - PIV
   .
   # PPx - thrombocytopenia, will use pneumoboots for now, pt also
   ambulatory
   .
   # Code - Presumed full code pending further discussion as detailed
   above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-07-25 11:37:00 Physician Attending Progress Note
Chief Complaint: Fever, hypoxemia, pancytopenia, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Temp up to 104.9 early this AM. Received Rituxan last night. Required
   4L oxygen by nasal cannula during the fever with sats in mid-90's.
   Has had significant potassium requirement.
   24 Hour Events:
 SPUTUM CULTURE - At [**2170-7-24**] 08:00 AM
 SPUTUM CULTURE - At [**2170-7-25**] 06:11 AM
 STOOL CULTURE - At [**2170-7-25**] 06:11 AM
 FEVER - 104.9
F - [**2170-7-25**] 03:00 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-24**] 12:30 PM
   Meropenem - [**2170-7-25**] 07:47 AM
   Vancomycin - [**2170-7-25**] 08:00 AM
   Voriconazole - [**2170-7-25**] 10:25 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2170-7-24**] 01:30 PM
   Pantoprazole (Protonix) - [**2170-7-25**] 12:00 AM
   Other medications:
   Tylenol, benadryl, hydrocortisone, chlortimazole, allopurinol, MVI,
   thiamine, tretinoin cream, po vancomycin, atrovent/albuterol nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-25**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.5
C (104.9
   Tcurrent: 37.2
C (98.9
   HR: 97 (86 - 108) bpm
   BP: 104/64(73) {97/51(64) - 129/76(86)} mmHg
   RR: 24 (19 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,372 mL
                                                                  2,295 mL
   PO:
                                                                    250 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,122 mL
                                                                  1,935 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    900 mL
   Urine:
                                                                  1,500 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    872 mL
                                                                  1,395 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Coarse rales that partly
   clear with cough, No(t) Bronchial: , Wheezes : Mostly at right base,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: Papular, erthematous rash on back, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   48 K/uL
   139 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.1 mEq/L
   11 mg/dL
   102 mEq/L
   136 mEq/L
   25.1 %
   0.3 K/uL
        [image002.jpg]
                             [**2170-7-24**]  05:34 AM
                             [**2170-7-24**]  07:57 AM
                             [**2170-7-25**]  12:15 AM
                             [**2170-7-25**]  05:18 AM
   WBC
   0.3
   0.3
   Hct
   22.7
   25.1
   Plt
   49
   48
   Cr
   0.7
   0.6
   0.6
   TCO2
   28
   Glucose
   148
   170
   139
   Other labs: PT / PTT / INR:18.1/29.9/1.7, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Albumin:2.6 g/dL, LDH:157 IU/L, Ca++:7.3 mg/dL, Mg++:1.8
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   1) Hypoxemia
   2) Fever
   3) Pancytopenia
   4) Pneumonia
   Oxygenation stable throughout the past 24 hours.
   Continues to have significant fever with neutropenia. Continues on
   broad spectrum antibiotics. ID service has raised issue of bronch to
   rule out nocardia. With present level of resp distress/broncospasm,
   bronch would carry higher risk of intubation. Will continue treatment
   with bronchodilators and reassess later today. Keep NPO for now.
   Blood counts are stable; remains pancytopenic. No need for transfusion
   now.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2170-07-26 07:25:00 Physician Resident Progress Note
Chief Complaint: neutropenic fever, pneumonia
   24 Hour Events:
   Bronchoscopy done yesterday
 showed a tenacious mucus plug in the
   superior segment of RLL that could not be fully dislodged.
   Pt had a temp spike of 103.6, during which pt was noted to be
   tachypneic into 30s, desats with increasing O2 requirements overnight.
   Was on facemask with 100% O2 at on point, now on high flow mask. CXR
   done at midnight, shows ?evolving LLL infiltrate. 0000 ABG
   7.51/40/70/33 (facemask, 100% O2), repeat ABG at 0400 7.51/39/80/32
   (facemask 40% O2). Nebs given, chest PT--> pt appears to be more
   comfortable this AM, with less work of breathing.
   Pt also noted to have frequent PACs when tachycardic- EKG was obtained,
   shows no new interval changes. K, Ca, Phos checked (3.8, 7.5, 1.6,
   respectively), and repleted.
   Continues to have fevers
   Acyclovir was added to regimen per ID recs
 BRONCHOSCOPY - At [**2170-7-25**] 01:00 PM
 FEVER - 103.6
F - [**2170-7-25**] 09:00 PM
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-25**] 12:19 PM
   Voriconazole - [**2170-7-25**] 10:00 PM
   Meropenem - [**2170-7-26**] 12:00 AM
   Acyclovir - [**2170-7-26**] 04:00 AM
   Vancomycin - [**2170-7-26**] 05:21 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2170-7-25**] 03:14 PM
   Fentanyl - [**2170-7-25**] 04:14 PM
   Pantoprazole (Protonix) - [**2170-7-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-26**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 36.4
C (97.5
   HR: 118 (95 - 134) bpm
   BP: 91/54(60) {91/50(60) - 142/79(92)} mmHg
   RR: 25 (20 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,598 mL
                                                                    426 mL
   PO:
                                                                    840 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,758 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    700 mL
   Urine:
                                                                  1,900 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,698 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.51/39/80.[**Numeric Identifier 20**]/31/6
   PaO2 / FiO2: 200
   Physical Examination
   Exam unchanged, except:
   Lungs: Loud rhonchi bilaterally, with expiratory wheezes R>L. Using
   accessory muscles of breathing.
   Labs / Radiology
   39 K/uL
   8.2 g/dL
   150 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   11 mg/dL
   102 mEq/L
   137 mEq/L
   23.8 %
   0.4 K/uL
        [image002.jpg]
                             [**2170-7-24**]  05:34 AM
                             [**2170-7-24**]  07:57 AM
                             [**2170-7-25**]  12:15 AM
                             [**2170-7-25**]  05:18 AM
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
   WBC
   0.3
   0.3
   0.4
   Hct
   22.7
   25.1
   23.8
   Plt
   49
   48
   39
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   28
   33
   32
   Glucose
   148
   170
   139
   150
   150
   Other labs: PT / PTT / INR:18.1/29.9/1.7, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:157 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   61 yo male with cutaneous sq cell CA, previously on chemo and XRT, and
   relapsing CLL, presents with neutropenic fever and hypoxia; found to
   have RLL infiltrate, s/p bronch yesterday.
   1) Hypoxia/ tachypnea: exacerbated during and after fever spikes.
   Likely due to RLL pna. Bronch yesterday may have transiently worsened
   the symptoms with some washing fluids left over from it.
   - continue O2 supp, abx, neb treatments
   - start mucomyst with albuterol (monitor for any signs of bronchial
   spasms)
   - check urinary legionella antigen
   - Suspicion for PE is low given pt
s low plts, however, will check
   LENIs.
   - f/u bronchial fluid labs
   2) Neutropenic fevers: Pt has a source of fever (RLL pna), however, pt
   has been on broad spectrum abx for 5 days. Anti-viral added yesterday
   for empiric coverage. Fevers may be related to medications. Will peel
   off unecessary abx once organism is identified and sensitivity studies
   are completed.
   - f/u sputum, blood, BAL studies
   - continue chest PT, incentive spirometry
   - continue Neupogen
   - appreciate ID recs
   3) Pancytopenia/CLL: Pt completed course of Rituxan on [**2170-7-23**]
   - Give IVIG x 1 given pt
s h/o hyperglobulinemia
   - appreciate heme/onc recs
   4) H/o hypotension: fluid responsive. Has had stable, normal BPs in
   last 48 hours, although pt appears to be highly sensitive to Verapamil
   - Continue Verapamil at
 previous dose
   - continue to monitor, fluid boluses as necessary as pt likely has
   increased insensible loss during fever spikes.
   5) Anemia
 hct stable.
   - hct goal>24, however will defer transfusion for now as pt continues
   to be febrile.
   6) Tylenol/Alcohol: h/o significant daily alcohol use and requiring
   tylenol for fever control. Pt and pt
s wife do not want NSAIDs for the
   risk of bleeding in the setting of thrombocytopenia. Will d/c motrin
   order.  Will monitor LFTs- currently no e/o hepatitis.
   7) cutaneous sq cell ca
   - XRT on hold
   8) thrush
   - continue clotrimazole troches
   9) FEN
   - cardiac, heart healthy diet, neutropenic; consider adding ensure as
   pt has very little appetite right now. Also consider Megace
   10) Access
   - Piv
   11) PPX
   - pneumoboots, encourage ambulation, on PPI, neutropenic precautions
   12) [**Name (NI) 224**] Pt and pt
s wife currently discussing; for now DNR but does
   wish to be intubated.
   13) Comm
 with pt and pt
s wife [**Name (NI) 225**]; also let PMD know by email with
   updates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-07-26 11:28:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, respiratory distress, hypoxemia,
   pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Temp up to 103.6 during the night with tachycardia and tachypnea. Had
   increased O2 requirement with need for closed face mask. CXR obtained -
   felt to show possible new LLL infiltrate
   ABG: 7.51/40/70 - on face mask last night; later 7.51/39/80 on 40%
   mask. More comfortable this AM, although still using some accessory
   muscles of ventilation.
   Acyclovir added to antibiotics for prophylaxis in setting of prolonged
   neutropenia.
   24 Hour Events:
 BRONCHOSCOPY - At [**2170-7-25**] 01:00 PM
 FEVER - 103.6
F - [**2170-7-25**] 09:00 PM
   History obtained from Patient
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-25**] 12:19 PM
   Acyclovir - [**2170-7-26**] 04:00 AM
   Meropenem - [**2170-7-26**] 08:11 AM
   Vancomycin - [**2170-7-26**] 08:11 AM
   Voriconazole - [**2170-7-26**] 10:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2170-7-25**] 03:14 PM
   Fentanyl - [**2170-7-25**] 04:14 PM
   Pantoprazole (Protonix) - [**2170-7-26**] 12:00 AM
   Other medications:
   Verapamil, Tessalon perles, colace, allopurinol, MVI, neupogen,
   thiamine, vancomycin, azithro, acyclovir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-26**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 37.7
C (99.9
   HR: 114 (103 - 134) bpm
   BP: 114/63(76) {85/50(60) - 142/79(92)} mmHg
   RR: 30 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,598 mL
                                                                    900 mL
   PO:
                                                                    840 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,758 mL
                                                                    720 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    700 mL
   Urine:
                                                                  1,900 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,698 mL
                                                                    201 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.51/39/80.[**Numeric Identifier 20**]/31/6
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : On left. Dullness on right, No(t)
   Hyperresonant: , Dullness : Right base.), (Breath Sounds: No(t) Clear :
   , Crackles : Coarse, No(t) Bronchial: , Wheezes : Rare, No(t)
   Diminished: , No(t) Absent : , Rhonchorous: Diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   39 K/uL
   150 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   11 mg/dL
   102 mEq/L
   137 mEq/L
   23.8 %
   0.4 K/uL
        [image002.jpg]
                             [**2170-7-24**]  05:34 AM
                             [**2170-7-24**]  07:57 AM
                             [**2170-7-25**]  12:15 AM
                             [**2170-7-25**]  05:18 AM
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
   WBC
   0.3
   0.3
   0.4
   Hct
   22.7
   25.1
   23.8
   Plt
   49
   48
   39
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   28
   33
   32
   Glucose
   148
   170
   139
   150
   150
   Other labs: PT / PTT / INR:18.1/29.9/1.7, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:157 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   1) Respiratory distress
   2) Pneumonia
   3) Hypoxemia
   4) Pancytopenia
   Fevers persist; spike last night may have in part been due to
   bronchoscopy. Continues on broad spectrum antibiotics. No new cultures
   results. CXR shows better expanded right lower lobe, consistent with
   clearing of mucus plug. Oxygenation a bit better this AM from last
   night. Consider adding mucomyst to albuterol to facilitate clearance of
   secretions. [**Month (only) 8**] be irritating to airway, so must be given with the
   bronchodilator. Doubt PE, but can check LENI's. Should be getting
   pneumoboots.
   Hct and platelet count trending down. Nearing transfusion threshold.
   ICU Care
   Nutrition: Oral feedings.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2170-07-27 06:51:00 Physician Resident Progress Note
Chief Complaint: neutropenic fever
   24 Hour Events:
   Pt had waxing and [**Doctor Last Name 226**] periods of increased work of breathing and
   hypoxia. Pt desatted to 88-89% on 4L NC, complained of SOB that was
   worse than before. Could hear gurgling due to mucus plugging that was
   not cleared by coughing. RR reached 40. Pt was placed on non-breather
   with return of O2 sat into the mid-90s and mild improvement of
   tachypnea. Performed chest PT, gave nebulizer treatments. CXR showed
   increased effusion.
   IVIG was started last night but discontinued after about 30 minutes due
   to hypoxia and tachypnea. Pt did not complain of back pain, rashes,
   flushing, and although pt had a low-grade fever it was unchanged from
   before. Although the suspicion for transfusion reaction was low, IVIG
   infusion was discontinued.
 FEVER - 101.9
F - [**2170-7-26**] 09:00 PM
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-25**] 12:19 PM
   Vancomycin - [**2170-7-26**] 07:52 PM
   Voriconazole - [**2170-7-26**] 09:53 PM
   Meropenem - [**2170-7-27**] 12:32 AM
   Acyclovir - [**2170-7-27**] 04:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-7-27**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-27**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38
C (100.4
   HR: 118 (110 - 133) bpm
   BP: 128/58(74) {85/47(59) - 138/89(99)} mmHg
   RR: 26 (18 - 42) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,045 mL
                                                                    174 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,837 mL
                                                                    174 mL
   Blood products:
                                                                     28 mL
   Total out:
                                                                  1,450 mL
                                                                    200 mL
   Urine:
                                                                  1,450 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    595 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   8.5 g/dL
   106 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   24.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2170-7-24**]  05:34 AM
                             [**2170-7-24**]  07:57 AM
                             [**2170-7-25**]  12:15 AM
                             [**2170-7-25**]  05:18 AM
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
   WBC
   0.3
   0.3
   0.4
   0.3
   Hct
   22.7
   25.1
   23.8
   24.4
   Plt
   49
   48
   39
   38
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   0.4
   TCO2
   28
   33
   32
   Glucose
   148
   170
   139
   150
   150
   124
   106
   Other labs: PT / PTT / INR:18.1/29.9/1.7, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:157 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: [**2170-7-25**] 3:32 pm BRONCHIAL BRUSH -
   PROTECTED
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED.
      ACID FAST SMEAR (Final [**2170-7-26**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):
   -----------
   [**2170-7-25**] 5:55 am SPUTUM      Source: Expectorated.
      GRAM STAIN (Final [**2170-7-25**]):
         <10 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Preliminary):
         OROPHARYNGEAL FLORA ABSENT.
         YEAST.    RARE GROWTH.
   ----------
   [**2170-7-23**] 9:10 am STOOL     CONSISTENCY: LOOSE      Source: Stool.
                               **FINAL REPORT [**2170-7-25**]**
      FECAL CULTURE (Final [**2170-7-25**]):
         NO SALMONELLA OR SHIGELLA FOUND.
         NO ENTERIC GRAM NEGATIVE RODS FOUND.
      CAMPYLOBACTER CULTURE (Final [**2170-7-25**]):    NO CAMPYLOBACTER FOUND.
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2170-7-23**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   Imaging: LENIs [**2170-7-26**] Prelim read:
   No DVT in bilateral lower extremities.
   Assessment and Plan
   61 yo male with cutaneous sq cell CA, previously on chemo and XRT, and
   relapsing CLL, presents with neutropenic fever and hypoxia; found to
   have RLL infiltrate, s/p bronch yesterday.
   1) Hypoxia/ tachypnea: exacerbated during and after fever spikes.
   Likely due to RLL pna. Bronch yesterday may have transiently worsened
   the symptoms with some washing fluids left over from it.
   - continue O2 supp, abx, neb treatments
   - start mucomyst with albuterol (monitor for any signs of bronchial
   spasms)
   - check urinary legionella antigen
   - Suspicion for PE is low given pt
s low plts, and LENIs preliminarily
   neg for DVTs
   - f/u bronchial fluid labs
   2) Neutropenic fevers: Pt has a source of fever (RLL pna), however, pt
   has been on broad spectrum abx for 5 days. Anti-viral added yesterday
   for empiric coverage. Fevers may be related to medications. Will peel
   off unecessary abx once organism is identified and sensitivity studies
   are completed.
   - f/u sputum, blood, BAL studies
   - continue chest PT, incentive spirometry
   - continue Neupogen
   - appreciate ID recs
   3) Pancytopenia/CLL: Pt completed course of Rituxan on [**2170-7-23**]
   -  IVIG attempted for hypogammaglobulinemia but discontinued due to
   ?transfusion reaction.
   - appreciate heme/onc recs
   4) H/o hypotension: fluid responsive. Has had stable, normal BPs in
   last 48 hours, although pt appears to be highly sensitive to Verapamil
   - Continue Verapamil at
 previous dose
   - continue to monitor, fluid boluses as necessary as pt likely has
   increased insensible loss during fever spikes.
   5) Anemia
 hct stable.
   - hct goal>24, however will defer transfusion for now as pt continues
   to be febrile.
   6) Tylenol/Alcohol: h/o significant daily alcohol use and requiring
   tylenol for fever control. Pt and pt
s wife do not want NSAIDs for the
   risk of bleeding in the setting of thrombocytopenia. Will d/c motrin
   order.  Will monitor LFTs- currently no e/o hepatitis.
   7) cutaneous sq cell ca
   - XRT on hold
   8) thrush
   - continue clotrimazole troches
   9) FEN
   - cardiac, heart healthy diet, neutropenic; consider adding ensure as
   pt has very little appetite right now. Also consider Megace
   10) Access
   - Piv, PICC
   11) PPX
   - pneumoboots (but pt refusing), encourage ambulation, on PPI,
   neutropenic precautions
   12) Code- DNR but does wish to be intubated, after which pt's wife
   [**Name (NI) 225**] will determine goal of care depending on prognosis for meaningful
   recovery
   13) Comm
 with pt and pt
s wife [**Name (NI) 225**]; also let PMD know by email with
   updates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-07-27 11:27:00 Physician Attending Progress Note
Chief Complaint: Pnuemonia, respiratory distress, hypoxemia,
   pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Variable oxygenation overnight. Developed increased respiratory
   distress. Placed on NRB mask with improvement. Given chest PT and
   nebulizers. CXR felt to show increased pleural effusion. IVIG started,
   and patient had another episode of tachypnea and dyspnea. IVIG stopped.
   Continues to have fever.
   Fluid balance is 3L positive for length of stay.
   LENI's obtained - prelim read: negative
   24 Hour Events:
 FEVER - 101.9
F - [**2170-7-26**] 09:00 PM
   History obtained from Patient
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-25**] 12:19 PM
   Acyclovir - [**2170-7-27**] 04:30 AM
   Meropenem - [**2170-7-27**] 08:17 AM
   Vancomycin - [**2170-7-27**] 08:17 AM
   Voriconazole - [**2170-7-27**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-7-27**] 12:32 AM
   Other medications:
   protonix, tessalon perles, allopourinol, neupogen, MVI, thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-27**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37
C (98.6
   HR: 134 (110 - 134) bpm
   BP: 129/69(83) {96/47(59) - 138/89(99)} mmHg
   RR: 44 (18 - 44) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,045 mL
                                                                    682 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,837 mL
                                                                    682 mL
   Blood products:
                                                                     28 mL
   Total out:
                                                                  1,450 mL
                                                                    700 mL
   Urine:
                                                                  1,450 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    595 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Dullness : Dullness at right base), (Breath
   Sounds: Clear : Clear on left, Crackles : Rales on right, No(t)
   Bronchial: , No(t) Wheezes : , Diminished: Right base, No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: papular rash on back, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   38 K/uL
   106 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   24.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2170-7-24**]  05:34 AM
                             [**2170-7-24**]  07:57 AM
                             [**2170-7-25**]  12:15 AM
                             [**2170-7-25**]  05:18 AM
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
   WBC
   0.3
   0.3
   0.4
   0.3
   Hct
   22.7
   25.1
   23.8
   24.4
   Plt
   49
   48
   39
   38
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   0.4
   TCO2
   28
   33
   32
   Glucose
   148
   170
   139
   150
   150
   124
   106
   Other labs: PT / PTT / INR:18.1/29.9/1.7, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:157 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR: smaller right hemithorax volume; probable increased right
   effusion; density at left base consistent with atelectasis or
   infiltrate
   Microbiology: Bronch [**Last Name (un) 227**]: no growth thus far.
   Stool culture negative for enteric pathogens.
   C Diff negative X 2
   Assessment and Plan
   1) Pneumonia
   2) Respiratory distress
   3) Fever
   4) Pancytopenia
   Continues to have fever and cough. I doubt the problems last night were
   related to the IVIG and would try to give the remainder of the dose
   today. CXR shows what may be a growing right effusion. Would ask IP to
   do ultrasound and tap if significant fluid. Consider chest CT to assess
   status of infiltrates on left and right. Will diurese today with goal
   of fluid balance of 1L negative; patient with increasing edema and
   positive fluid balance for the admission.
   Counts stable. No need for transfusion at this time.
   Attempting to keep up with potassium losses in urine and stool.
   Patient refusing pneumoboots.
   Patient discussing some end of life issues. Not sure he wants to go on
   ventilator if he is not making progress with infection and, if he goes
   on the vent, only wants that for a short time unless he is making
   progress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2170-07-28 06:56:00 Physician Resident Progress Note
Chief Complaint: Hypoxemia, tachypnea
   24 Hour Events:
   Pt had thoracentesis with removal of 1L yesterday, improvement of
   symptoms.  Pleural fluid not clearly exudate vs. transudate by Light
   criteria. Cell ct shows lymphocytic predominance. Pending cultures.
   IVIG infusion resumed again last night. Had been d
ed the night
   before due to adverse reactions. Pt had same reactions last night
   (fever, rigors, altered mental status). Will d/c for now.
   Pt continued to spike overnight. Repeat blood cultures sent from PICC.
   Also seems to be spiking fevers following Voriconazole administration.
 FEVER - 102.9
F - [**2170-7-28**] 01:45 AM
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin  - [**2170-7-25**] 12:19 PM
   Vancomycin - [**2170-7-27**] 08:45 PM
   Voriconazole - [**2170-7-27**] 10:30 PM
   Acyclovir - [**2170-7-28**] 04:30 AM
   Meropenem - [**2170-7-28**] 05:53 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-27**] 03:25 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2170-7-28**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.2
C (100.7
   HR: 113 (99 - 134) bpm
   BP: 103/77(54) {89/54(54) - 130/77(86)} mmHg
   RR: 29 (22 - 44) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,840 mL
                                                                    352 mL
   PO:
           TF:
   IVF:
                                                                  1,580 mL
                                                                    204 mL
   Blood products:
                                                                    260 mL
                                                                    148 mL
   Total out:
                                                                  2,300 mL
                                                                     80 mL
   Urine:
                                                                  2,300 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -461 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6L + Face tent 95% (for humidity)
   SpO2: 99%
   Physical Examination
   Gen: awake, alert, sitting up in bed, face tent on, tachypneic
   HEENT: mm slightly dry, PERRL, EOMI grossly
   CV: RRR, no m/r/g, S1 S2 present
   LUNGS: anteriorly rhonchi bilaterally; posteriorly decreased breath
   sounds from mid->base R lung; expiratory rhonchi diffusely over L
   (upper > lower)
   ABD: soft , NTND, bs+
   EXT: 1+pitting edema LE bilaterally, pedal pulses present
   Labs / Radiology
   68 K/uL
   5.8 g/dL
   92 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   13 mg/dL
   100 mEq/L
   136 mEq/L
   16.8 %
   0.3 K/uL
        [image002.jpg]
   Legionalla Urine Ag: negative
   Blood cultures: pending
   BAL tests: all NGTD except Acid Fast cx (pending)
   Ca 7.4/Mg 1.7/ Phos 2.8
   LDH serum 189
   Pleural fluid: no PMNs/microorganisms
   - Tprotein 1.8, Glu 109, LDH 178, Alb 1.2
   - WBC 300, RBC 310, Polys 1, Lymph 43, Monos 0, Eos 2, Other 54 (likely
   mesothelial cells)
   - Tpeff/Tpser<0.5, but LDH eff/LDH serum>0.6 (equivocal by Light
   criteria)
   - Culture pending
   CXR [**2170-7-28**]
   FINDINGS: In comparison with the study of [**7-27**], the streak of
   atelectasis at
   the left base has cleared. The hazy opacification involving the lower
   portion
   of the right hemithorax persists. This is consistent with the right
   lower
   lobe consolidation seen on CT which has expanded to involve part of the
   right
   upper lobe. Moderate right and small left pleural effusion persists.
   Prominence of the right hilar region could reflect the lymphadenopathy
   seen on
   CT that probably represents a reactive process.
                             [**2170-7-25**]  12:15 AM
                             [**2170-7-25**]  05:18 AM
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
   WBC
   0.3
   0.4
   0.3
   0.3
   Hct
   25.1
   23.8
   24.4
   16.8
   Plt
   48
   39
   38
   62
   68
   Cr
   0.6
   0.6
   0.6
   0.6
   0.5
   0.4
   0.7
   TCO2
   33
   32
   Glucose
   170
   139
   150
   150
   124
   106
   92
   Other labs: PT / PTT / INR:30.4/42.8/3.1, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:189 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   61 yo male with cutaneous sq cell CA, previously on chemo and XRT, and
   relapsing CLL, presents with neutropenic fever and hypoxia; found to
   have RLL infiltrate, s/p bronch [**2170-7-25**]. Suspicion for PE is low given
   pt
s low plts, and LENIs preliminarily neg for DVTs
   .
   1) Hypoxia/ tachypnea: exacerbated during and after fever spikes.
   Likely due to RLL pna. X ray now showing ?developing pleural effusions
   vs segmental collapse of RLL.
   - IP performed thoracentesis yesterday. Removed ~1L. Pt symptomatically
   better. Pleural fluid results not diagnostic of exudate. Pending
   pleural fluid culture.
   - CT chest yesterday showed
   - No utility to re-bronch at this time.
   - Continue O2 supp, abx (Azithromycin Day 1 for atypicals, Vanc IV Day
   11 for GP/MRSA, Meropenem Day 5 for GN/anaerobes, Voriconazole Day [**4-23**]
   for empiric fungal), neb treatments, mucomyst with albuterol (monitor
   for any signs of bronchial spasms)
   - Will switch to Posaconazole from Voriconazole for possible allergic
   response (pt spikes fever after each dose of Vori)
   - Legionella Urinary ag negative.
   - Bronch AF culture still pending.
   2) Neutropenic fevers: Pt has a source of fever (RLL pna), however, pt
   has been on broad spectrum abx for 5 days. Acyclovir for empiric
   coverage (Day 4). Fevers may be related to medications. Will peel off
   unecessary abx once organism is identified and sensitivity studies are
   completed.
   - F/u blood cultures, Bronch AF culture
   - continue chest PT, incentive spirometry
   - continue Neupogen
   - PO vanc d/c
d as pt is C. diff neg. (With new assay that lab is
   using, was told that neg result x 3 is no longer required to rule out
   C. diff)
   - appreciate ID recs
   - Hold off on additional IVIG given adverse reactions.
   3) Pancytopenia/CLL: Pt completed course of Rituxan on [**2170-7-23**]
   -  IVIG attempted for hypogammaglobulinemia but discontinued due to
   ?transfusion reaction.
   - appreciate heme/onc recs
   4) Anemia
 hct stable.
   - hct goal>24, however will defer transfusion for now as pt continues
   to be febrile.
   5) Tylenol/Alcohol: h/o significant daily alcohol use and requiring
   tylenol for fever control. Pt and pt
s wife do not want NSAIDs for the
   risk of bleeding in the setting of thrombocytopenia. Will monitor LFTs-
   currently no e/o hepatitis.
   7) cutaneous sq cell ca
   - XRT on hold
   8) thrush
   - continue clotrimazole troches
   9) FEN
   - cardiac, heart healthy diet, neutropenic, with ensure. Also consider
   Megace
   - Pt still complaining of small amounts of diarrhea each day. C.Diff
   negative [**7-25**].  Will check Crypto, Viral cx per ID, and if negative give
   Immodium for relief.
   10) Access
   - Piv, PICC
   11) PPX
   - pneumoboots (but pt refusing), encourage ambulation, Pantoprazole IV,
   neutropenic precautions
   12) Code- DNR but does wish to be intubated, after which pt's wife
   [**Name (NI) 225**] will determine goal of care depending on prognosis for meaningful
   recovery
   13) Comm
 with pt and pt
s wife [**Name (NI) 225**]; also let PMD (Dr. [**First Name8 (NamePattern2) 228**]
   [**Last Name (NamePattern1) 229**]) know by email with updates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-07-28 11:52:00 Physician Attending Progress Note
Chief Complaint: Septic shock secondary to pneumonia, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 M regionally metastatic cutaneous squamous cell CA, CLL admitted
   with fever and neutropenia on [**7-19**].  Course has been complicated by
   progressive hypoxemic failure, pneumonia and sepsis and bilateral
   pleural effusions.
   24 Hour Events:
 FEVER - 102.9
F - [**2170-7-28**] 01:45 AM
   -Blood cultures sent.
   -Resumed IVIG but had rigors and tachycardia after infusion.
   -Thoracentesis for 1L on the right.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-25**] 12:19 PM
   Acyclovir - [**2170-7-28**] 04:30 AM
   Meropenem - [**2170-7-28**] 05:53 AM
   Vancomycin - [**2170-7-28**] 08:06 AM
   Voriconazole - [**2170-7-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-27**] 03:25 PM
   Other medications:
   Pantoprazole
   Tessalon perles
   Colace
   Allopurinol
   Filgastrim
   MVI
   Thiamine
   Verapamil 120, 80
   Mucomyst
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2170-7-28**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.4
C (101.1
   HR: 105 (99 - 132) bpm
   BP: 91/59(65) {89/45(54) - 142/77(87)} mmHg
   RR: 15 (15 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,840 mL
                                                                  1,104 mL
   PO:
           TF:
   IVF:
                                                                  1,580 mL
                                                                    956 mL
   Blood products:
                                                                    260 mL
                                                                    148 mL
   Total out:
                                                                  2,300 mL
                                                                     80 mL
   Urine:
                                                                  2,300 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -461 mL
                                                                  1,024 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 5 L
   SpO2: 98%
   Physical Examination
   General Appearance: Mild distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: right base, Bronchial:
   bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Erythematous rash over back - stable
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   5.8 g/dL
   68 K/uL
   92 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   13 mg/dL
   100 mEq/L
   136 mEq/L
   25.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2170-7-25**]  05:18 AM
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
   WBC
   0.3
   0.4
   0.3
   0.3
   Hct
   25.1
   23.8
   24.4
   16.8
   25.4
   Plt
   48
   39
   38
   62
   68
   Cr
   0.6
   0.6
   0.6
   0.5
   0.4
   0.7
   TCO2
   33
   32
   Glucose
   139
   150
   150
   124
   106
   92
   Other labs: PT / PTT / INR:30.4/42.8/3.1, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:189 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: Pleural fluid:
   TP  1.8
   LDH 178
   Glucose 109
   Cell count - 300 WBC (43%Ly, 1% PMN, Eo 2%, other 54%)
   Cytology pending
   Imaging: Chest CT - Bilateral pleural effusions, R greater than L.
   Dense consolidaiton RLL. Relaxation atelectasis L.
   Microbiology: BAL - Negative
   Blood - Pending
   Legionella urinary Ag - Negative
   Pleural fluid - Gram stain negative; culture pending
   Assessment and Plan: 61 M CLL, locally advanced SCC of the skin
   admitted with fever and neutropenia.  Large RLL pneumonia and bilateral
   pleural effusions.  Dyspnea improved after large volume thoracentesis
   yesterday.  Fluid reveals exudate but no evidence of empyema.  Has
   diarrhea for the past 4 days or so.
   1)       Febrile neutropenia
 Continue current antibiotics.  C. diff
   recently negative.  Repeat blood cultures pending.  Wonder if fevers
   related to drugs, particularly voriconazole, may be contributing.  Will
   speak with ID re: changing to micafungin or pre-medication for vori.
   Continue neupogen.  Avoid IVIG given recurrent adverse reaction.
   2)      Hypoxemic respiratory failure
 Continue treatment for
   pneumonia as above.  OOB.  Chest PT.  Supplemental O2 as needed for
   SpO2 > 90%.  Follow up culture data and cytology.
   3)      Diarrhea
 Crypto Ag, viral culture pending.  If negative, will
   start lomotil or immodium.
   I agree in full with the history, exam, ROS and plan and findings of
   the note of Dr. [**Last Name (STitle) 244**].  I was physically present for the discussion of
   the plan of care and examination of the patient.  I would add that
   patient with SCCA now admitted with fever and substantial effusion.  He
   is now s/p thoracentesis with significant improvement in dyspnea but
   has persistent fever and neutropenia.  He has been limited with IVIG
   tolerance and has rigor following voriconazole.
   On exam
   RR=38
   Patient with clear evidence of consolidation in RLL region most
   prominently.  He does have subtle dullness to percussion only.  Cough
   with deep inspiration noted consistent with some re-expansion of
   atelectasis.
   Will have to continue to consider antibiotic choices with ID and
   Oncology input for long term intervention.  He has had improvement with
   thoracentesis which is encouraging at this time and will continue to
   wean O2 as tolerated.  Will need repeat CXR to evaluate for
   re-accumulation.   Given persistent tachypnea and quick rise in heart
   rate with minimal exertion would favor continued close monitoring given
   compromised respiratory status and likely slow to resolve pulmonary
   parenchymal process.
   ICU Care
   Nutrition: Cardiac, neutropenic.
   Glycemic Control:  None.
   Lines:  Right PICC.
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT: Ambulation.  Holding SC heparin for thrombocytopenia.
   Stress ulcer: Pantoprazole.
   VAP: N/A.
   Comments:
   Communication:  Comments: Patient, wife, oncology and ID consultants
   Code status: DNR.  Intubation OK.
   Disposition : ICU this am
re-evaluate in PM for possible transfer.
   Total time spent: 35

2170-07-29 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    lung sounds - rhonchi and crackles sats ~ >95% @ 6 lpm via NC and when
   face tent is in place, denies shortness of breath, coughing out small
   amountof yellowish sceretions
    Febrile at 12 MN ? neutropenic fever, tachy 110-120
s denies any
   headache
 FEVER - 102.9
F - [**2170-7-29**] 12:00 AM
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2170-7-28**] 10:00 AM
   Acyclovir - [**2170-7-28**] 12:28 PM
   Azithromycin - [**2170-7-28**] 12:28 PM
   Vancomycin - [**2170-7-28**] 07:03 PM
   Meropenem - [**2170-7-29**] 05:24 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-7-28**] 12:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-29**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.9
C (98.5
   HR: 101 (88 - 120) bpm
   BP: 112/64(74) {86/44(54) - 142/72(80)} mmHg
   RR: 30 (15 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,658 mL
                                                                    416 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,510 mL
                                                                    176 mL
   Blood products:
                                                                    148 mL
   Total out:
                                                                    380 mL
                                                                  1,050 mL
   Urine:
                                                                    380 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,278 mL
                                                                   -634 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   8.3 g/dL
   110 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   24.5 %
   0.4 K/uL
        [image002.jpg]
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
   WBC
   0.4
   0.3
   0.3
   0.4
   Hct
   23.8
   24.4
   16.8
   25.4
   24.5
   Plt
   39
   38
   62
   68
   47
   Cr
   0.6
   0.6
   0.5
   0.4
   0.7
   0.4
   TCO2
   33
   32
   Glucose
   150
   150
   124
   106
   92
   110
   Other labs: PT / PTT / INR:30.2/42.2/3.1, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:189 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: [**2170-7-28**] CXR
   In comparison with the study of [**7-27**], the streak of atelectasis at the
   left base has cleared. The hazy opacification involving the lower
   portion of the right hemithorax persists. This is consistent with the
   right lower lobe consolidation seen on CT which has expanded to involve
   part of the right upper lobe. Moderate right and small left pleural
   effusion persists. Prominence of the right hilar region could reflect
   the lymphadenopathy seen on CT that probably represents a reactive
   process.
   Assessment and Plan
   61 yo male with cutaneous sq cell CA, previously on chemo and XRT, and
   relapsing CLL, presents with neutropenic fever and hypoxia; found to
   have RLL infiltrate, s/p bronch [**2170-7-25**]. Suspicion for PE is low given
   pt
s low plts, and LENIs preliminarily neg for DVTs
   .
   1) Hypoxia/ tachypnea: exacerbated during and after fever spikes.
   Likely due to RLL pna. X ray now showing ?developing pleural effusions
   vs segmental collapse of RLL.
   - IP performed thoracentesis yesterday. Removed ~1L. Pt symptomatically
   better. Pleural fluid results not diagnostic of exudate. Pending
   pleural fluid culture.
   - CT chest yesterday showed
   - No utility to re-bronch at this time.
   - Continue O2 supp, abx (Azithromycin Day 1 for atypicals, Vanc IV Day
   11 for GP/MRSA, Meropenem Day 5 for GN/anaerobes, Voriconazole Day [**4-23**]
   for empiric fungal), neb treatments, mucomyst with albuterol (monitor
   for any signs of bronchial spasms)
   - Will switch to Posaconazole from Voriconazole for possible allergic
   response (pt spikes fever after each dose of Vori)
   - Legionella Urinary ag negative.
   - Bronch AF culture still pending.
   2) Neutropenic fevers: Pt has a source of fever (RLL pna), however, pt
   has been on broad spectrum abx for 5 days. Acyclovir for empiric
   coverage (Day 4). Fevers may be related to medications. Will peel off
   unecessary abx once organism is identified and sensitivity studies are
   completed.
   - F/u blood cultures, Bronch AF culture
   - continue chest PT, incentive spirometry
   - continue Neupogen
   - PO vanc d/c
d as pt is C. diff neg. (With new assay that lab is
   using, was told that neg result x 3 is no longer required to rule out
   C. diff)
   - appreciate ID recs
   - Hold off on additional IVIG given adverse reactions.
   3) Pancytopenia/CLL: Pt completed course of Rituxan on [**2170-7-23**]
   -  IVIG attempted for hypogammaglobulinemia but discontinued due to
   ?transfusion reaction.
   - appreciate heme/onc recs
   4) Anemia
 hct stable.
   - hct goal>24, however will defer transfusion for now as pt continues
   to be febrile.
   5) Tylenol/Alcohol: h/o significant daily alcohol use and requiring
   tylenol for fever control. Pt and pt
s wife do not want NSAIDs for the
   risk of bleeding in the setting of thrombocytopenia. Will monitor LFTs-
   currently no e/o hepatitis.
   7) cutaneous sq cell ca
   - XRT on hold
   8) thrush
   - continue clotrimazole troches
   9) FEN
   - cardiac, heart healthy diet, neutropenic, with ensure. Also consider
   Megace
   - Pt still complaining of small amounts of diarrhea each day. C.Diff
   negative [**7-25**].  Will check Crypto, Viral cx per ID, and if negative give
   Immodium for relief.
   10) Access
   - Piv, PICC
   11) PPX
   - pneumoboots (but pt refusing), encourage ambulation, Pantoprazole IV,
   neutropenic precautions
   12) Code- DNR but does wish to be intubated, after which pt's wife
   [**Name (NI) 225**] will determine goal of care depending on prognosis for meaningful
   recovery
   13) Comm
 with pt and pt
s wife [**Name (NI) 225**]; also let PMD (Dr. [**First Name8 (NamePattern2) 228**]
   [**Last Name (NamePattern1) 229**]) know by email with updates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-07-29 12:41:00 Physician Attending Progress Note
Chief Complaint: Febrile neutropenia, hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 M CLL, locally advanced cutaneous SCC s/p XRT, chemo admitted with
   fever and neutropenia, hypoxemia with RLL pneumonia.  He was also found
   to have bilateral effusions.  The right side was tapped for 1 L on
   Friday.
   24 Hour Events:
 FEVER - 102.9
F - [**2170-7-29**] 12:00 AM
   -Voriconazole changed to posaconazole
   -Continues to have loose stools
   -More respiratory distress today
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2170-7-28**] 10:00 AM
   Meropenem - [**2170-7-29**] 05:24 AM
   Vancomycin - [**2170-7-29**] 08:58 AM
   Acyclovir - [**2170-7-29**] 11:48 AM
   Azithromycin - [**2170-7-29**] 11:48 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-7-28**] 12:29 PM
   Other medications:
   Thiamine
   MVI
   Filgastrim
   Allopurinol
   Colace
   Tessalon
   Posaconazole
   Verapamil 80, 120
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Cardiovascular: Tachycardia
   Respiratory: Cough, Tachypnea, Hypoxemia
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2170-7-29**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.1
C (97
   HR: 103 (88 - 120) bpm
   BP: 92/53(62) {86/44(54) - 124/72(80)} mmHg
   RR: 33 (21 - 39) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,658 mL
                                                                    781 mL
   PO:
             360 mL
   TF:
   IVF:
                                                                  1,510 mL
                                                                    421 mL
   Blood products:
                                                                    148 mL
   Total out:
                                                                    380 mL
                                                                  1,050 mL
   Urine:
                                                                    380 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,278 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   FiO2: 6L + 10L shovel mask
   SpO2: 93%
   Physical Examination
   General Appearance: Respiratory distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Rash: Back, erythematous macules
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   47 K/uL
   110 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   24.5 %
   0.4 K/uL
        [image002.jpg]
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
   WBC
   0.4
   0.3
   0.3
   0.4
   Hct
   23.8
   24.4
   16.8
   25.4
   24.5
   Plt
   39
   38
   62
   68
   47
   Cr
   0.6
   0.6
   0.5
   0.4
   0.7
   0.4
   TCO2
   33
   32
   Glucose
   150
   150
   124
   106
   92
   110
   Other labs: PT / PTT / INR:30.2/42.2/3.1, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:189 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: ANC 90
   Imaging: CXR - Lower lung volumes.  Reaccumulation of R pleural
   effusion.
   Microbiology: BAL - Negative
   Pleural fluid - Negative
   Blood - Negative
   Urine - Negative
   BG - Negative
   GM - Negative
   Assessment and Plan: 61 M CLL, locally advanced cutaneous SCC s/p
   chemo, XRT admitted with fever, neutropenia and a large RLL pneumonia.
   He is broadly covered with antimicrobials.  His WBC count has been
   extremely slow to recover.
   1)       Febrile neutropenia
 Continue current broad spectrum
   antibiotics, anti-virals and anti-fungals.  Has an area of erythema
   around PICC line.  Will likely need to be changed.  Continue Neuopen.
   Will readdress IVIG with ID given his ongoing fevers.
   2)       Volume overload
 Grossly edematous and with evidence of
   reaccumulation of pleural effusion.  Unfortunately blood pressures are
   borderline.  Will try to decrease verapamil dose and diurese gently
   with lasix.
   3)       Diarrhea
 Low volume.  Infectious studies pending.  If
   negative, will try lomotil or immodium.
   4)       Hypoxemic respiratory failure
 Secondary to PNA.  Treatment
   as above.  Reports previous improvement with lasix.  Diuresis as
   above.  OOB.  Supplemental O2 for SpO2 > 90%
   ICU Care
   Nutrition: Neutropenic.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2170-7-24**] 05:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate).  Intubation OK.
   Disposition : ICU for resp distress
   Total time spent: 40
   Patient is critically ill

2170-07-30 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2170-7-29**] 03:00 PM
 FEVER - 103.8
F - [**2170-7-30**] 12:00 AM
   Patient continues to have a cough, not productive. Overnight, RR
   30-40s.  O2 sats >90% on 6L nc, weaned to 5L.  Received Chest PT and
   nebulizers.
   Patient breathing comfortably in the morning. Complains of swelling in
   his legs up to his scrotum.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2170-7-28**] 10:00 AM
   Azithromycin - [**2170-7-29**] 11:48 AM
   Vancomycin - [**2170-7-29**] 07:34 PM
   Acyclovir - [**2170-7-30**] 04:28 AM
   Meropenem - [**2170-7-30**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-30**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 37.3
C (99.2
   HR: 113 (93 - 113) bpm
   BP: 96/62(70) {79/46(56) - 123/72(79)} mmHg
   RR: 31 (23 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,575 mL
                                                                    167 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                  1,115 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                      0 mL
   Urine:
                                                                  2,250 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,075 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: Well appearing, NAD.
   CV: RRR. No murmurs.
   Lungs: Inspiratory and expiratory wheezes bilaterally.
   Abdomen: Soft, non tender, not distended. No masses.
   Extremities: Warm, well perfused. Pitting edema of legs bilaterally.
   Scrotum edematous.
   Labs / Radiology
   47 K/uL
   8.3 g/dL
   110 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   24.5 %
   0.4 K/uL
        [image002.jpg]
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
   WBC
   0.4
   0.3
   0.3
   0.4
   Hct
   23.8
   24.4
   16.8
   25.4
   24.5
   Plt
   39
   38
   62
   68
   47
   Cr
   0.6
   0.6
   0.5
   0.4
   0.7
   0.4
   TCO2
   33
   32
   Glucose
   150
   150
   124
   106
   92
   110
   Other labs: PT / PTT / INR:30.2/42.2/3.1, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:189 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   61 yo male with cutaneous sq cell CA, previously on chemo and XRT, and
   relapsing CLL, presents with neutropenic fever and hypoxia; found to
   have RLL infiltrate, s/p bronch [**2170-7-25**], s/p thoracocentesis [**2170-7-27**].
   .
   1) Hypoxia/ tachypnea/fevers: hypoxia and tacypnea exacerbated during
   and after fever spikes. Fevers may be related to medications but also
   likely due to RLL pna.
   - Continue O2 supp, abx (Azithromycin Day 3 for atypicals, Vanc IV Day
   13 for GP/MRSA, Meropenem Day 7 for GN/anaerobes, Posaconazole Day 3
   for fungal, Acyclovir Day 6 for viral), neb treatments, mucomyst with
   albuterol (monitor for any signs of bronchial spasms)
   - Continue Posaconazole.
   - Consider VRE coverage with Linezolid or Daptomycine (will d/w ID)
   - Pull out PICC as +erythema, consider re-placement of PICC at another
   site (pt has poor peripheral access)
   - Consider another trial of IVIG, since it
s uncertain whether pt had a
   true allergic reaction or fever/hypoxia coincided with IVIG infusion
   (will d/w ID and heme/onc)
apparently on last trial of IVIG, patient
   had a Temp of 105.9F. Therefore, not continued.
   - Legionella Urinary ag negative.
   - F/u plueral fluid and BAL cultures
   - continue chest PT, incentive spirometry
   - continue Neupogen
   2) Pancytopenia/CLL: Pt completed course of Rituxan on [**2170-7-23**]
   -          appreciate heme/onc recs
   3)  Coagulopathy:  INR of 3, most likely secondary to malnutrition.
   -give Vitamin K po
   -if PICC to be placed, will need FFP prior.
   3) Anemia
 hct stable.
   - hct goal>24, however will defer transfusion for now as pt continues
   to be febrile and hct stable.
   4) Tylenol/Alcohol: h/o significant daily alcohol use and requiring
   tylenol for fever control. Pt and pt
s wife do not want NSAIDs for the
   risk of bleeding in the setting of thrombocytopenia. Will monitor LFTs-
   currently no e/o hepatitis.
   5) cutaneous sq cell ca
   - XRT on hold
   6) thrush
   - continue clotrimazole troches
   7) FEN
   - cardiac, heart healthy diet, neutropenic, with ensure. Also consider
   Megace
   - goal: diurese to negative 1L
   8) Access
   - PIV, PICC pulled. Will speak to wife regarding replacement of PICC,
   vs continuing with PIVs
   9) PPX
   - intermittent pneumoboots, encourage ambulation, Pantoprazole IV,
   neutropenic precautions
   10) Code- DNR but does wish to be intubated short term, after which
   pt's wife [**Name (NI) 225**] will determine goal of care depending on prognosis for
   meaningful recovery
   11) Comm
 with pt and pt
s wife [**Name (NI) 225**]; also let PMD (Dr. [**First Name8 (NamePattern2) 228**]
   [**Last Name (NamePattern1) 229**]) know by email with updates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-7-29**] 03:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-07-30 11:32:00 Physician Attending Progress Note
Chief Complaint: Respriatory distress
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2170-7-29**] 03:00 PM
 FEVER - 103.8
F - [**2170-7-30**] 12:00 AM
   States to feel somewhat improved, but still demonstrates dyspnea with
   exertion in bed.
   Describes scrotal & penile edema, although not worsening.
   Expresses desire to replace PICC (or similar device) to limit
   discomfort.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2170-7-28**] 10:00 AM
   Azithromycin - [**2170-7-29**] 11:48 AM
   Acyclovir - [**2170-7-30**] 04:28 AM
   Meropenem - [**2170-7-30**] 06:00 AM
   Vancomycin - [**2170-7-30**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-7-30**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 39.6
C (103.2
   HR: 97 (93 - 113) bpm
   BP: 113/65(76) {79/46(56) - 123/72(79)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,575 mL
                                                                    410 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                  1,115 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    750 mL
   Urine:
                                                                  2,250 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,075 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : right, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   47 K/uL
   110 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   24.5 %
   0.4 K/uL
        [image002.jpg]
                             [**2170-7-25**]  08:09 PM
                             [**2170-7-26**]  12:10 AM
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
   WBC
   0.4
   0.3
   0.3
   0.4
   Hct
   23.8
   24.4
   16.8
   25.4
   24.5
   Plt
   39
   38
   62
   68
   47
   Cr
   0.6
   0.6
   0.5
   0.4
   0.7
   0.4
   TCO2
   33
   32
   Glucose
   150
   150
   124
   106
   92
   110
   Other labs: PT / PTT / INR:30.2/42.2/3.1, ALT / AST:25/44, Alk Phos / T
   Bili:63/0.5, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:189 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR [**2170-7-29**] -- RLL infiltrate; worsening obscuring of Left >>
   right hemidiaphragms
   Assessment and Plan
   61 yom CLL, neutropenia, pneumonia
   RESPIRATORY DISTRESS -- multifactorial;  pneumonia, pleural effusion.
   Monitor RR, SaO2,
   PNEUMONIA -- RLL;  clinical stability.  [**Month (only) 8**] experience radiographic and
   clinical worsening when WBC recover.  Continue  empirical antibiotics.
   CLL -- s/p chemotherapy.
   COAGULOPATHY -- unclear etiology, although possible nutritional or
   antibiotic related.  Provide Vit K.  Monitor INR.
   NEUTROPENIA -- receiving GM-CSF.  Monitor daily CBC.  Neutropenic
   precautions.
   ANEMIA -- related to marrow suppression, chronic disease.  Monitor.
   FLUIDS -- desire net negative fluid balance.  Follow I/O.
   IV ACCESS
 hope to avoid central access, although need for significant
   number of antibiotics (including Vanco) may necessiate replacing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-7-29**] 03:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2170-07-31 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 104.1
F - [**2170-7-30**] 08:00 PM -resolved with Tylenol and
   cooling blanket
   INR 4.9, Vitamin K given
   O2: currently on 6L nc -sats 91-100%, better with sitting. Continues to
   have non productive cough. Receiving nebs, chest PT, and IS.
   ID consulted -believe there's no contraindication to Rituximab.
   Nursing is concerned with access. Currently has 1 PIV. Having
   difficulty drawing labs, administering medications.  Discussed PICC
   placement with wife yesterday, she has declined.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Posaconazole - [**2170-7-28**] 10:00 AM
   Azithromycin - [**2170-7-29**] 11:48 AM
   Vancomycin - [**2170-7-30**] 08:30 PM
   Acyclovir - [**2170-7-31**] 04:15 AM
   Meropenem - [**2170-7-31**] 06:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-7-31**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-31**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
   Tcurrent: 37.9
C (100.2
   HR: 108 (87 - 110) bpm
   BP: 119/62(76) {96/54(64) - 129/91(101)} mmHg
   RR: 28 (16 - 36) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    890 mL
                                                                    383 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    525 mL
   Urine:
                                                                  1,250 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///34/
   Physical Examination
   Well appearing, NAD.
   Lungs: Expiratory wheezes, R base>L base
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND. No hepatomegaly.
   Extremities: Pitting edema of LE
s bilaterally upto scrotum.
   Psych: Flat affect
   Labs / Radiology
   50 K/uL
   8.9 g/dL
   84 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.2 mEq/L
   16 mg/dL
   102 mEq/L
   143 mEq/L
   27.5 %
   0.8 K/uL
        [image002.jpg]
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
                             [**2170-7-30**]  03:26 PM
                             [**2170-7-31**]  05:00 AM
   WBC
   0.4
   0.3
   0.3
   0.4
   0.5
   0.8
   Hct
   23.8
   24.4
   16.8
   25.4
   24.5
   27.6
   27.5
   Plt
   39
   38
   62
   68
   47
   50
   50
   Cr
   0.6
   0.5
   0.4
   0.7
   0.4
   0.5
   0.4
   TCO2
   32
   Glucose
   150
   124
   106
   92
   110
   109
   84
   Other labs: PT / PTT / INR:30.2/38.8/3.1, ALT / AST:69/57, Alk Phos / T
   Bili:130/2.5, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:162 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Granulocyte count: 370 (90 on [**7-29**])
   Fluid analysis / Other labs: Bronchial washings
   -gram stain 1+PMNs
   -fungal culture showed yeast
   Bronchial brush resp culture: NG
   Pleural fluid
   -Gram stain -no PMNs, no organisms
   -fluid culture NG
   Microbiology: Blood cx X3 Pending
   Cath tip culture Pending
   CMV viral load Pending
   Legionella Ab negative
   Assessment and Plan
   61 yo male with cutaneous sq cell CA, previously on chemo and XRT, and
   relapsing CLL, presents with neutropenic fever and hypoxia; found to
   have RLL infiltrate, s/p bronch [**2170-7-25**], s/p thoracocentesis [**2170-7-27**].
   1) Hypoxia/ tachypnea/fevers: hypoxia and tacypnea exacerbated during
   and after fever spikes. Fevers most likely due to RLL pna.
   - Continue O2 supp, abx (Azithromycin Day 4 for atypicals, Vanc IV Day
   14 for GP/MRSA, Meropenem Day 8 for GN/anaerobes, Posaconazole Day 4
   for fungal, Acyclovir Day 7 for viral), neb treatments, mucomyst with
   albuterol (monitor for any signs of bronchial spasms)
   - Continue Posaconazole.
   -will speak to ID today regarding rising LFTs, which may be secondary
   to Posaconazole.  No abdominal pain currently.
   - Consider another trial of IVIG, since it
s uncertain whether pt had a
   true allergic reaction or fever/hypoxia coincided with IVIG infusion
   (will d/w ID and heme/onc)
apparently on last trial of IVIG, patient
   had a Temp of 105.9F. Therefore, not continued.
   - Legionella Urinary ag negative.
   - F/u plueral fluid and BAL cultures -Negative so far
   -Bronichal washings gram stain 1+ PMNs. Fungal culture grew yeast.
   - continue chest PT, incentive spirometry
   - continue Neupogen
   2) Pancytopenia/CLL: Pt completed course of Rituxan on [**2170-7-23**]
   -          appreciate heme/onc recs
   3)  Coagulopathy:  INR of 3.1, most likely secondary to malnutrition.
   -give Vitamin K IV
   #) Anemia
 hct stable.
   - hct goal>24, however will defer transfusion for now as pt continues
   to be febrile and hct stable.
   4) Tylenol/Alcohol: h/o significant daily alcohol use and requiring
   tylenol for fever control. Pt and pt
s wife do not want NSAIDs for the
   risk of bleeding in the setting of thrombocytopenia. Will monitor LFTs-
   currently no e/o hepatitis.
   -obtain AST, ALT, tbili today
   -slight rise yesterday: ALT 64, AST 51, tbili 3.2
   -continue to monitor
   5) cutaneous sq cell ca
   - XRT on hold
   6) thrush
   - continue clotrimazole troches
   7) FEN
   - cardiac, heart healthy diet, neutropenic, with ensure. Also consider
   Megace
   - goal: diurese to negative 1L
   8) Access
   - PIV, PICC pulled. Wife agreed that no PICC for now. But nursing is
   having difficulty with access. Will readdress this issue today.
   9) PPX
   - intermittent pneumoboots, encourage ambulation, Pantoprazole IV,
   neutropenic precautions
   10) Code- DNR but does wish to be intubated short term, after which
   pt's wife [**Name (NI) 225**] will determine goal of care depending on prognosis for
   meaningful recovery
   11) Comm
 with pt and pt
s wife [**Name (NI) 225**]; also let PMD (Dr. [**First Name8 (NamePattern2) 228**]
   [**Last Name (NamePattern1) 229**]) know by email with updates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-7-29**] 03:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-07-31 10:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   HPI:
   24 Hour Events:
 FEVER - 104.1
F - [**2170-7-30**] 08:00 PM
   Recurrent fevers.
   States to feel improved.
   Up in chair.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-29**] 11:48 AM
   Acyclovir - [**2170-7-31**] 04:15 AM
   Meropenem - [**2170-7-31**] 06:25 AM
   Vancomycin - [**2170-7-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-7-31**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-7-31**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
   Tcurrent: 38.5
C (101.3
   HR: 108 (87 - 110) bpm
   BP: 122/56(73) {96/54(64) - 129/91(101)} mmHg
   RR: 24 (20 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    890 mL
                                                                    612 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                  1,045 mL
   Urine:
                                                                  1,250 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Person, place, date, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   50 K/uL
   84 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.2 mEq/L
   16 mg/dL
   102 mEq/L
   143 mEq/L
   27.5 %
   0.8 K/uL
        [image002.jpg]
                             [**2170-7-26**]  03:27 AM
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
                             [**2170-7-30**]  03:26 PM
                             [**2170-7-31**]  05:00 AM
   WBC
   0.4
   0.3
   0.3
   0.4
   0.5
   0.8
   Hct
   23.8
   24.4
   16.8
   25.4
   24.5
   27.6
   27.5
   Plt
   39
   38
   62
   68
   47
   50
   50
   Cr
   0.6
   0.5
   0.4
   0.7
   0.4
   0.5
   0.4
   TCO2
   32
   Glucose
   150
   124
   106
   92
   110
   109
   84
   Other labs: PT / PTT / INR:30.2/38.8/3.1, ALT / AST:64/51, Alk Phos / T
   Bili:115/3.2, Differential-Neuts:51.9 %, Lymph:45.8 %, Mono:1.3 %,
   Eos:0.7 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:162 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- multifactorial; RLL pneumonia, bronchospasm
   (reactive), pleural effusions.  Continue to treat conditions, monitor
   RR, provide supplimental O2.  Beta-agonists nebulizors for
   bronchospasm.
   COAGULOPATHY -- in part attributed to malnutrition, antibiotics, and
   possible liver dysfunction.  s/p Vit K.  Monitor INR.
   LFT ABNORMALITIES -- monitor serial LFT, fractionate T Bili, consider
   RUQ U/S
   PNEUMONIA -- probable infectious, but unclear etiology.  Continue
   empirical antimicrobials.  [**Month (only) 8**] worsen as WBC repopulates.
   NEUTROPENIA -- improving.  Maintain precautions.
   NUTRITIONAL SUPPORT -- encourage PO, supplements.
   FLUIDS --  Desire net negative balance [**Telephone/Fax (1) 264**]/24 hrs.  Monitor I/O.
   IV access (peripheral iv, consider PICC).
   CLL -- s/p chemotherapy.  Considering additional chemo, as per
   Oncology.
   DEPRESSED MOOD -- at risk for depression (reactive).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-7-29**] 03:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-08-01 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2170-8-1**] 05:00 AM
   Changed from Posaconazole to Voriconazole yesterday afternoon given
   transaminitis.
   Continues to have a cough, blood tinged
relieved with nebulizers. Some
   concern for loss of gag reflex. Poor appetite, not eating well.
   Received Vitamin K IV yesterday.
   Concern of IV access
   Nutrition consulted yesterday
   Sat in chair yesterday x3 hours.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-31**] 12:00 PM
   Vancomycin - [**2170-7-31**] 07:30 PM
   Voriconazole - [**2170-7-31**] 08:38 PM
   Acyclovir - [**2170-8-1**] 04:00 AM
   Meropenem - [**2170-8-1**] 06:10 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-31**] 08:00 PM
   Pantoprazole (Protonix) - [**2170-8-1**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-1**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 101 (96 - 123) bpm
   BP: 113/68(79) {90/40(54) - 124/72(82)} mmHg
   RR: 19 (12 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,011 mL
                                                                    181 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,311 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  3,435 mL
                                                                      0 mL
   Urine:
                                                                  3,435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,424 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///35/
   Physical Examination
   Gen: NAD. Breathing comfortably. Pale appearing.
   Lungs: Crackles throughout bilaterally. Decreased lung sounds at right
   base.
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND. No masses.
   Extremities: 2+ pitting edema. Warm, well perfused.
   Psych: Flat affect.
   Labs / Radiology
   50 K/uL
   7.8 g/dL
   116 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.3 mEq/L
   14 mg/dL
   96 mEq/L
   139 mEq/L
   22.9 %
   0.5 K/uL
        [image002.jpg] CMV viral load Negative
   Cath tip culture negative
   Pleural chemistry: t protein 1.8; glucose 109; LDH 178; Albumin 1.2
   Pleural fluid: WBC 300; RBC 310; 1 poly; 43 lymphs; 2 eos; 54 atypical
   cells
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
                             [**2170-7-30**]  03:26 PM
                             [**2170-7-31**]  05:00 AM
                             [**2170-8-1**]  03:33 AM
   WBC
   0.4
   0.3
   0.3
   0.4
   0.5
   0.8
   0.5
   Hct
   23.8
   24.4
   16.8
   25.4
   24.5
   27.6
   27.5
   22.9
   Plt
   39
   38
   62
   68
   47
   50
   50
   50
   Cr
   0.6
   0.5
   0.4
   0.7
   0.4
   0.5
   0.4
   0.5
   Glucose
   150
   124
   106
   92
   110
   109
   84
   116
   Other labs: PT / PTT / INR:30.2/38.8/3.1, ALT / AST:66/73, Alk Phos / T
   Bili:138/2.5, Differential-Neuts:51.9 %, Lymph:45.8 %, Mono:1.3 %,
   Eos:0.7 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:162 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   61 yo male with cutaneous sq cell CA, previously on chemo and XRT, and
   relapsing CLL, presents with neutropenic fever and hypoxia; found to
   have RLL infiltrate, s/p bronch [**2170-7-25**], s/p thoracocentesis [**2170-7-27**].
   1) RLL pneumonia
   - Continue O2 supp, abx (Azithromycin Day 5 for atypicals, Vanc IV Day
   15 for GP/MRSA, Meropenem Day 9 for GN/anaerobes, Voriconazole Day 1
   for fungal, Acyclovir Day 8 for viral), neb treatments, mucomyst with
   albuterol (monitor for any signs of bronchial spasms)
   -concern regarding loss of gag reflex. Will have speech and swallow
   eval.
   - Consider another trial of IVIG, since it
s uncertain whether pt had a
   true allergic reaction or fever/hypoxia coincided with IVIG infusion
   (will d/w ID and heme/onc)
apparently on last trial of IVIG, patient
   had a Temp of 105.9F. Therefore, not continued.
   - Legionella Urinary ag negative.
   -Bronichal washings gram stain 1+ PMNs. Fungal culture grew yeast.
   - continue chest PT, incentive spirometry
     - continue Neupogen
   2) Pancytopenia/CLL: Pt completed course of Rituxan on [**2170-7-23**]
    -          follow up with heme/onc recs
   3)  Coagulopathy:  INR of 3.1, most likely secondary to malnutrition.
   -repeat INR today
will give Vit K if high
   #) Anemia
 hct dropped from 27.5 to 22.9 over the last day. Concern
   with blood tinged sputum also.
   -repeat INR, CBC, type and screen
   - hct goal>24, however will defer transfusion for now as pt continues
   to be febrile and hct stable.
   4) Transaminitis:
   -slight rise yesterday: ALT 64, AST 51, tbili 3.2
   -repeat LFTs today. Expect them to trend down given that posaconazole
   was d/c-ed yesterday
   5) cutaneous sq cell ca
   - XRT on hold
   6) thrush
    - continue clotrimazole troches
   7) FEN
   - cardiac, heart healthy diet, neutropenic, with ensure. Also consider
   Megace. Nutrition consult pending.
   -speech and swallow to eval gag reflex
   - goal: diurese to negative 1L. Will start 40 IV q12 hours
   8) Access
   - PIV, PICC pulled. Wife agreed that no PICC for now. But nursing is
   having difficulty with access. Will readdress this issue today.
   9) PPX
   - intermittent pneumoboots, encourage ambulation, Pantoprazole IV,
   neutropenic precautions
   10) Code- DNR but does wish to be intubated short term, after which
   pt's wife [**Name (NI) 225**] will determine goal of care depending on prognosis for
   meaningful recovery
   11) Comm
 with pt and pt
s wife [**Name (NI) 225**]; also let PMD (Dr. [**First Name8 (NamePattern2) 228**]
   [**Last Name (NamePattern1) 229**]) know by email with updates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-7-29**] 03:13 PM
   20 Gauge - [**2170-7-31**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-08-01 11:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   HPI:
   24 Hour Events:
 FEVER - 102.2
F - [**2170-8-1**] 05:00 AM
   Up in chair.
   Occasional production of blood streaked sputum.  Not escalating. No
   other bleeding.
   Observed to have somewhat decreased gag reflex.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2170-7-31**] 12:00 PM
   Acyclovir - [**2170-8-1**] 04:00 AM
   Meropenem - [**2170-8-1**] 06:10 AM
   Voriconazole - [**2170-8-1**] 08:00 AM
   Vancomycin - [**2170-8-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-31**] 08:00 PM
   Pantoprazole (Protonix) - [**2170-8-1**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-8-1**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.9
C (98.5
   HR: 104 (96 - 123) bpm
   BP: 108/58(70) {91/45(59) - 124/72(82)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,011 mL
                                                                    746 mL
   PO:
                                                                    700 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  1,311 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  3,435 mL
                                                                    650 mL
   Urine:
                                                                  3,435 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,424 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///35/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Appears
   depressed
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Tender: ,
   No(t) Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   50 K/uL
   116 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.3 mEq/L
   14 mg/dL
   96 mEq/L
   139 mEq/L
   22.9 %
   0.5 K/uL
        [image002.jpg]
                             [**2170-7-26**]  04:13 AM
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
                             [**2170-7-30**]  03:26 PM
                             [**2170-7-31**]  05:00 AM
                             [**2170-8-1**]  03:33 AM
   WBC
   0.4
   0.3
   0.3
   0.4
   0.5
   0.8
   0.5
   Hct
   23.8
   24.4
   16.8
   25.4
   24.5
   27.6
   27.5
   22.9
   Plt
   39
   38
   62
   68
   47
   50
   50
   50
   Cr
   0.6
   0.5
   0.4
   0.7
   0.4
   0.5
   0.4
   0.5
   Glucose
   150
   124
   106
   92
   110
   109
   84
   116
   Other labs: PT / PTT / INR:30.2/38.8/3.1, ALT / AST:66/73, Alk Phos / T
   Bili:138/2.5, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   LDH:162 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Pneumonia, fever, neutropenia
   RESPIRATORY DISTRESS -- no significant change clinically.
   Radiographically no significant change in infiltrate (although may
   actually worsen as ANC recover).  Monitor RR, SaO2.
   RUL INFILTRATE -- presumed pneumonia (infectious).  Continue empirical
   therapy.
   HEMOPTYSIS -- mild/scant.  [**Month (only) 8**] be related to pneumonia.  Monitor.  F/U
   coags.  No further intervention unless escalates.  Monitor Sa O2.
   HYPOKALEMIA -- replete to K>4.0.
   FLUIDS -- desire contined net diuresis 1000 ml/day.  Monitor I/O.
   ABNORMAL LFT's -- antimirobials adjusted per ID service to limit liver
   toxicity.
   NEUTROPENIA -- slow recovery.  Continue precautions.
   DEPRESSION -- offer support and anti-depressant.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-7-29**] 03:13 PM
   20 Gauge - [**2170-7-31**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2170-08-02 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.1
F - [**2170-8-1**] 08:00 PM
   -continues to cough up blood tinged yellow sputum
   -requiring 6L nc -no SOB -comfortable when sitting upright
   -access remains an issue for labs. 1 PIV currently.
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2170-8-1**] 12:25 PM
   Azithromycin - [**2170-8-1**] 12:25 PM
   Vancomycin - [**2170-8-1**] 07:34 PM
   Voriconazole - [**2170-8-1**] 08:39 PM
   Meropenem - [**2170-8-2**] 05:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-1**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.3
C (99.2
   HR: 117 (92 - 123) bpm
   BP: 103/54(67) {99/46(59) - 119/81(87)} mmHg
   RR: 28 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,613 mL
                                                                    100 mL
   PO:
                                                                    470 mL
             TF:
   IVF:
                                                                  1,143 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,800 mL
   Urine:
                                                                  2,300 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -687 mL
                                                                 -1,700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///39/
   Physical Examination
   Gen: Sitting up, NAD. Breathing comfortably.
   Lungs: Bronchial breath sounds R lung base. Dullness to percussion R
   lung base.
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND. No masses.
   Extremities: 3+pitting edema.
   Psych: Flat affect. Mildy improved compared to yesterday.
   Neuro: A+O x3. Moving all extremities.
   Labs / Radiology
   58 K/uL
   8.7 g/dL
   121 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.3 mEq/L
   13 mg/dL
   95 mEq/L
   137 mEq/L
   25.3 %
   0.7 K/uL
        [image002.jpg] yesterday
s labs
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
                             [**2170-7-30**]  03:26 PM
                             [**2170-7-31**]  05:00 AM
                             [**2170-8-1**]  03:33 AM
                             [**2170-8-1**]  12:57 PM
   WBC
   0.3
   0.3
   0.4
   0.5
   0.8
   0.5
   0.7
   Hct
   24.4
   16.8
   25.4
   24.5
   27.6
   27.5
   22.9
   25.3
   Plt
   38
   62
   68
   47
   50
   50
   50
   58
   Cr
   0.5
   0.4
   0.7
   0.4
   0.5
   0.4
   0.5
   0.6
   Glucose
   124
   106
   92
   110
   109
   84
   116
   121
   Other labs: PT / PTT / INR:15.0/25.2/1.3, ALT / AST:66/73, Alk Phos / T
   Bili:138/2.2, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   LDH:162 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   61 yo male with cutaneous sq cell CA, previously on chemo and XRT, and
   relapsing CLL, presents with neutropenic fever and hypoxia; RLL
   pneumonia, s/p bronch [**2170-7-25**], s/p thoracocentesis [**2170-7-27**].
   1)       RLL pneumonia
   -no AM labs this morning because of  difficult access.
   - Continue O2 supp, abx (Azithromycin Day 6 for atypicals, Vanc IV Day
   16 for GP/MRSA, Meropenem Day 10 for GN/anaerobes, Voriconazole Day 2
   for fungal, Acyclovir Day 9 for viral), neb treatments, mucomyst with
   albuterol (monitor for any signs of bronchial spasms)
    -Speech and swallow saw no obvious evidence of aspiration, though
   couldn
t rule out silent aspiration.  Scheduled for video swallow this
   AM.
    - Legionella Urinary ag negative.
   -Bronichal washings gram stain 1+ PMNs. Fungal culture grew yeast.
   - continue chest PT, incentive spirometry
     - continue Neupogen
   2) Pancytopenia/CLL: Pt completed course of Rituxan on [**2170-7-23**]
   3)  Coagulopathy:  INR of 3.1 yesterday, most likely secondary to
   malnutrition.
   -Has gotten 2 doses of Vitamin K.
   #) Anemia
 hct dropped from 27.5 to 22.9 over the yesterday. Concern
   with blood tinged sputum also.  Unable to follow HCT today. However,
   patient breathing comfortably. Sputum cultures have not been good
   samples.  Will consider pulmonary hemorrhage, and follow HCT once labs
   obtained this afternoon. Clinically stable.
    - hct goal>24, however will defer transfusion for now as pt continues
   to be febrile and hct stable.
   4) Transaminitis: Attributed to Posaconazole. Discontinued, and
   switched to Voriconazole 2 days ago. Will follow LFTs back to baseline.
   -slightly improved yesterday.
   #)Psych: Depression: Started Celexa 10mg on [**8-1**].  Will continue to
   titrate up, and eval for response.
   5) cutaneous sq cell ca
   - XRT on hold
   6) thrush
    - continue clotrimazole troches
   7) FEN
    - cardiac, heart healthy diet, neutropenic, with ensure. Also consider
   Megace. Nutrition consult pending.  More of an appetite this AM.
   - goal: diurese to negative 1L. Will continue 40 IV q12 hours
   8) Access
   - PIV, PICC pulled. Wife agreed that no PICC for now. But nursing is
   having difficulty with access. Will readdress this issue today. Will
   likely need PICC placement today.
   9) PPX
   - intermittent pneumoboots, encourage ambulation, Pantoprazole IV,
   neutropenic precautions
   10) Code- DNR but does wish to be intubated short term, after which
   pt's wife [**Name (NI) 225**] will determine goal of care depending on prognosis for
   meaningful recovery
   11) Comm
 with pt and pt
s wife [**Name (NI) 225**]; also let PMD (Dr. [**First Name8 (NamePattern2) 228**]
   [**Last Name (NamePattern1) 229**]) know by email with updates.
   #) Dispo: Patient is stable. Call out to floor today.
   ICU Care
   Nutrition:
   Lines:
   18 Gauge - [**2170-7-29**] 03:13 PM
   20 Gauge - [**2170-7-31**] 02:00 PM

2170-08-02 09:51:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   HPI:
   24 Hour Events:
 FEVER - 102.1
F - [**2170-8-1**] 08:00 PM
   Continues with scant production of yellow sputum with streaks of
   blood.  Persisitent, but not escalating.  No bleeding elsewhere.
   Up in chair, eating breakfast.
   Somewhat more spirited today, but affect generally remains flat.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Pollen/Hayfever (Oral) (Homeopathic Drugs)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2170-8-1**] 12:25 PM
   Azithromycin - [**2170-8-1**] 12:25 PM
   Meropenem - [**2170-8-2**] 05:23 AM
   Vancomycin - [**2170-8-2**] 08:15 AM
   Voriconazole - [**2170-8-2**] 09:26 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-1**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Yellow sputum
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-8-2**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.6
C (101.5
   HR: 109 (92 - 123) bpm
   BP: 113/52(66) {99/46(59) - 119/81(87)} mmHg
   RR: 29 (17 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SA (Sinus Arrhythmia)
             Total In:
                                                                  1,620 mL
                                                                    616 mL
   PO:
                                                                    470 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,150 mL
                                                                    496 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  2,300 mL
   Urine:
                                                                  2,300 mL
                                                                  2,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                 -1,685 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///39/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : right side, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Pale
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   58 K/uL
   121 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.3 mEq/L
   13 mg/dL
   95 mEq/L
   137 mEq/L
   25.3 %
   0.7 K/uL
        [image002.jpg]
                             [**2170-7-26**]  02:57 PM
                             [**2170-7-27**]  03:49 AM
                             [**2170-7-27**]  04:16 PM
                             [**2170-7-28**]  04:17 AM
                             [**2170-7-28**]  07:20 AM
                             [**2170-7-29**]  04:08 AM
                             [**2170-7-30**]  03:26 PM
                             [**2170-7-31**]  05:00 AM
                             [**2170-8-1**]  03:33 AM
                             [**2170-8-1**]  12:57 PM
   WBC
   0.3
   0.3
   0.4
   0.5
   0.8
   0.5
   0.7
   Hct
   24.4
   16.8
   25.4
   24.5
   27.6
   27.5
   22.9
   25.3
   Plt
   38
   62
   68
   47
   50
   50
   50
   58
   Cr
   0.5
   0.4
   0.7
   0.4
   0.5
   0.4
   0.5
   0.6
   Glucose
   124
   106
   92
   110
   109
   84
   116
   121
   Other labs: PT / PTT / INR:15.0/25.2/1.3, ALT / AST:66/73, Alk Phos / T
   Bili:138/2.2, Differential-Neuts:64.0 %, Band:12.0 %, Lymph:24.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   LDH:162 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR ([**2170-8-2**])  somewhat increased infiltrates Left midlung
   field, perhaps RUL.
   Assessment and Plan
   Pneumonia, fever,  neutropenia.
   HYPOXEMIA
 attributed to pulmonary infiltrates.  Improving, now with
   lower FiO2 requirement.  Monitor RR, SaO2.
   FEVERS
 persistent despite multiple empirical antimicrobials; unclear
   etiology.  Possible related to pneumonia, drug-related, or malignancy.
   PNEUMONIA
 dense RLL infiltrate, and LUL infiltrate (perhaps worsening
   as WBC counts recovering).  Continue empirical treatment.
   CLL
 s/p chemotherapy.
   ACCESS
 plan PICC replacement for medications (multiple
   antimicrobials) and blood draw.
   NUTRITIONAL SUPPORT
 assess swallowing mechanisms (video swallow)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-7-29**] 03:13 PM
   20 Gauge - [**2170-7-31**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 55 minutes